US04281017
[p-(3-Oxo-1-indanyl)phenyl]acetic acid
Polyphosphoric acid (1 kg) was stirred and heated to 95°-100° C. and β-phenyl-p-(carboxymethyl)-hydrocinnamic acid (0.48 mol) added over 10 minutes. The mixture was stirred for 1/2 hour and poured into ice and H2O; the title product was continuously extracted with CHCl3 and recrystallised from ether, m.p. 151° C.

reactant | β-phenyl-p-(carboxymethyl)-hydrocinnamic acid | 0.48 mol | C1(=CC=CC=C1)C(CC(=O)O)C1=CC=C(C=C1)CC(=O)O | C17H16O4
solvent | H2O | O | H2O
product | [p-(3-Oxo-1-indanyl)phenyl]acetic acid | O=C1CC(C2=CC=CC=C12)C1=CC=C(C=C1)CC(=O)O | C17H14O3
